US05635527
Ethyl 6-amidino-2-benzofurancarboxylate hydrochloride (129 mg, 0.480 mmol) was hydrolyzed with a 1N aqueous sodium hydroxide solution to give 65 mg of 6-amidino-2-benzofurancarboxylic acid hydrochloride as a brown solid (56%).

reactant | Ethyl 6-amidino-2-benzofurancarboxylate hydrochloride | 0.480 mmol, 129 mg | Cl.C(N)(=N)C1=CC2=C(C=C(O2)C(=O)OCC)C=C1
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | 6-amidino-2-benzofurancarboxylic acid hydrochloride | 65 mg, 56% | Cl.C(N)(=N)C1=CC2=C(C=C(O2)C(=O)O)C=C1 | InChI=1S/C10H8N2O3.ClH/c11-9(12)6-2-1-5-3-8(10(13)14)15-7(5)4-6;/h1-4H,(H3,11,12)(H,13,14);1H
